US04113871
By the reaction of ethyl 6-[4-(2-aminoethyl)-phenyl]-hexane-carboxylate hydrochloride with 4-chlorobenzoyl chloride, there is obtained 6-{4-[2-(4-chlorobenzamido)-ethyl]-phenyl}-hexane-carboxylic acid; m.p. 140°-143° C., after recrystallization from ethanol/diethyl ether.

reactant | ethyl 6-[4-(2-aminoethyl)-phenyl]-hexane-carboxylate hydrochloride | Cl.NCCC1=CC=C(C=C1)CCCCCCC(=O)OCC
reactant | 4-chlorobenzoyl chloride | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
product | 6-{4-[2-(4-chlorobenzamido)-ethyl]-phenyl}-hexane-carboxylic acid | ClC1=CC=C(C(=O)NCCC2=CC=C(C=C2)CCCCCCC(=O)O)C=C1 | C22H26ClNO3
